* =========================================================================
*  4kW MPPT DC-DC BOOST CONVERTER — UC3843 Closed-Loop Control
*  Version 9.0
* =========================================================================
*  Author      : Nadeem Tahir (Embedded Systems & Power Electronics Engineer)
*  Tools       : NgSpice 46 (Windows 64-bit)
*  Date        : 27 April 2026
*  Hardware    : UC3843 → FOD3150 → 2× STGW60H65DFB (parallel) → STTH3006D
* -------------------------------------------------------------------------
*  PURPOSE:
*  Full closed-loop transient simulation of the 4kW MPPT boost converter
*  using the UC3843 peak-current-mode PWM controller. The UC3843 drives
*  two parallel 650V/60A IGBTs through a FOD3150 optocoupled gate driver
*  with an asymmetric 15Ω/5.6Ω gate resistance network.
*
*  POWER STAGE:
*  V_PV (120–350V) → 200µH Inductor → Parallel IGBTs → STTH3006D → 380V Bus
*
*  CONTROL LOOP:
*  Output voltage is sensed by a 150kΩ/1kΩ resistive divider into UC3843
*  Pin 2 (VFB). The UC3843 internal error amplifier regulates the duty
*  cycle to maintain 380V on the DC bus.
* =========================================================================

.include ../models/STGW60H65DFB.lib
.include ../models/STTH3006D.lib
.include ../models/FOD3150.sub
.include ../models/UC3843_Behavioral.sub

.PARAM V_IN = 250.0
.PARAM R_LOAD = 40.0

* POWER STAGE
V_PV IN_NODE 0 DC {V_IN}
C_IN IN_NODE 0 470u 
L1 IN_NODE L1_MID 200u
R_L1 L1_MID BOOST_NODE 0.05

* Parallel IGBTs
XQ1 BOOST_NODE G1 EMITTER STGW60H65DFB
XQ2 BOOST_NODE G2 EMITTER STGW60H65DFB
R_SHUNT EMITTER 0 0.01

* Asymmetric Gate Drive Network
R1_ON  DRV G1 15
D1_OFF DRV G1_D D1N4148
R1_OFF G1 G1_D 5.6
R2_ON  DRV G2 15
D2_OFF DRV G2_D D1N4148
R2_OFF G2 G2_D 5.6
.MODEL D1N4148 D(Is=2.682n tt=10n)

* Parasitic Modeling / Solver Convergence
C_STAB1 G1 0 1n
C_STAB2 G2 0 1n

D1 BOOST_NODE V_OUT STTH3006D
C_OUT V_OUT 0 880u IC=250
R_LOAD_VAL V_OUT 0 {R_LOAD}

* UC3843 CONTROL
V_VCC AUX_VCC 0 DC 15V
X1 CP FB EMITTER OSC 0 PWM_SIG AUX_VCC V_REF UC3843

R_F1 V_OUT FB 150k
R_F2 FB 0 1k

X_FOD PWM_SIG 0 0 DRV AUX_VCC FOD3150

.control
  option reltol=0.04 abstol=10n vntol=10m 
  tran 20u 60ms 0 1u uic
  plot v(V_OUT)
  wrdata uc3843_results.txt v(V_OUT) i(L1) v(PWM_SIG)
  quit
.endc
.end
