* Inverter Digital Twin: TLP250H + FGY75T120SWD Benchmark
* Phase 1: Single-Leg Switching Characterization

** 1. Include Component Models
.include "models/tlp250h.sub"
.include "models/FGY75T120SWD.lib"

** 2. Global Parameters
.param V_bus=400V
.param V_logic=5V
.param V_gate=15V
.param R_gate_ext=15

** 3. Test Bench Circuit
* Power Bus
Vbus Power_In 0 {V_bus}

* dsPIC PWM Signal (5V Logic)
Vpwm_mcu MCU_PWM 0 PULSE(0 {V_logic} 10u 100n 100n 25u 50u) ; 20kHz PWM

* TLP250H Isolated Driver
* Nodes: Anode Cathode VCC VO GND
Xdriver MCU_PWM 0 Gate_Supply Gate_Drive 0 TLP250H
Vgate Gate_Supply 0 {V_gate}

* FGY75T120SWD IGBT
* Nodes: Collector Gate Emitter
Xigbt1 Power_In Gate_Pin 0 FGY75T120SWD
Rg Gate_Drive Gate_Pin {R_gate_ext}

* Pulse Load (Simplified for characterization)
Rload Power_In Power_In 1G ; Dummy high-Z

** 4. Simulation Control
.tran 10n 100u
.options post=1
.options reltol=0.01

.control
  run
  set color0=white
  set color1=black
  plot v(Gate_Pin) title "IGBT Gate Voltage (Miller Plateau Check)"
  plot v(MCU_PWM) title "MCU PWM Output"
  
  * Export data for Verification report
  wrdata results/benchmark_data.txt v(Gate_Pin) v(MCU_PWM)
.endc
.end
